US07635684B2
To a solution of 3-(2,3,4,6-tetra-O-acetyl-β-D-galactopyranosyloxy)-4-{[4-(3-hydroxypropoxy)-2-methylphenyl]-methyl}-5-isopropyl-1H-pyrazole (0.1 g) and triethylamine (0.026 mL) in dichloromethane (3 mL) was added methanesulfonyl chloride (0.013 mL), and the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into 0.5 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure to give 3-(2,3,4,6-tetra-O-acetyl-β-D-galactopyranosyloxy)-5-isopropyl-4-({4-[3-(methanesulfonyloxy)propoxy]-2-methylphenyl}methyl)-1H-pyrazole (0.11 g). This material was dissolved in a solution of acetonitrile (2 mL) and methanol (2 mL). To the solution were added 3-benzylaminopropionamide (46 mg) and sodium iodide (24 mg), and the mixture was stirred at 60° C. for 3 days. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=20/1-10/1) to give the title compound (78 mg).

reactant | 3-(2,3,4,6-tetra-O-acetyl-β-D-galactopyranosyloxy)-4-{[4-(3-hydroxypropoxy)-2-methylphenyl]-methyl}-5-isopropyl-1H-pyrazole | 0.1 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=C(C=C(C=C1)OCCCO)C)C(C)C | C31H42N2O12
reactant | triethylamine | 0.026 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.013 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | 0.5 mol/L | Cl | ClH
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 3-(2,3,4,6-tetra-O-acetyl-β-D-galactopyranosyloxy)-5-isopropyl-4-({4-[3-(methanesulfonyloxy)propoxy]-2-methylphenyl}methyl)-1H-pyrazole | 0.11 g | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=NNC(=C1CC1=C(C=C(C=C1)OCCCOS(=O)(=O)C)C)C(C)C | C32H44N2O14S
